US07002011B1
Chlorine gas was passed into a solution of 21 g of 2-amino-4-methylthio-6-trifluoromethyl-1,3,5-triazine in 0.2 l glacial acetic acid at 20 to 25° C. (15 min). The reaction mixture was stirred for 30 min at approx. 20° C., sprayed for 1 hour with nitrogen gas at room temperature, poured into 1 l of ice-cold aqueous solution of 70 g of sodium hydroxide and stirred for 5 min. After extraction with ethyl acetate, the organic phase was washed with water and dried over magnesium sulfate, and the solvent was removed in vacuo. The crude product was purified by stirring in heptane. After filtration with suction and drying, 12 g (60%) of 2-amino-4-chloro-6-trifluoromethyl-1,3,5-triazine were obtained as a white powder (m.p. 109° C.); 1H NMR (CDCl3): δ=6.4 (s br., 2H).

reactant | Chlorine | ClCl | Cl2
reactant | 2-amino-4-methylthio-6-trifluoromethyl-1,3,5-triazine | 21 g | NC1=NC(=NC(=N1)SC)C(F)(F)F | C5H5F3N4S
reactant | sodium hydroxide | 70 g | [OH-].[Na+]
solvent | acetic acid | 0.2 l | C(C)(=O)O | C2H4O2
product | 2-amino-4-chloro-6-trifluoromethyl-1,3,5-triazine | 12 g, 60% | NC1=NC(=NC(=N1)Cl)C(F)(F)F | C4H2ClF3N4
